US07723329B2
Benzyl bromide (0.46 mL, 3.9 mmol) was added to a stirring suspension of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (1.85 g, 3.54 mmol) and cesium carbonate (1.28 g, 3.93 mmol) in acetone (60 mL). The reaction mixture was stirred under nitrogen at ambient temperature for 1.5 hours. It was then poured into excess water and extracted with chloroform. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography with 40-50% ethyl acetate in hexane. Drying at 80° C. in vacuo for 30 minutes yielded toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester as a light buff foam (1.39 g, 64.1%); Mass Spectrum (+EI, [M+H]+) m/z 613. 1HNMR (500 MHz, DMSO-d6): δ8.74-8.77 (m, 1H), 8.55-8.57 (m, 1H), 8.25-8.27 (m, 1H), 8.01-8.05 (m, 1H), 7.64-7.76 (m, 4H), 7.58-7.64 (m, 2H), 7.25 (d, 2H, J=7.93 Hz), 7.10-7.19 (m, 5H), 7.07 (d, 1H, J=2.19 Hz), 6.94-6.97 (m, 1H), 5.69 (s, 2H), 4.30-4.32 (m, 2H), 4.14-4.16 (m, 2H), 2.18 ppm (s, 3H). Elemental Analysis for C33H28N2O6S2.0.60 mol H2O: Calcd: C, 63.57; H, 4.72; N, 4.49; Found: C, 63.17; H, 4.63; N, 4.30.

reactant | Benzyl bromide | 3.9 mmol, 0.46 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 3.54 mmol, 1.85 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | cesium carbonate | 3.93 mmol, 1.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C33H28N2O6S2
